US05091523
2-Acetamido-3,4,6-tri-O-acetyl-2-deoxy-β-D-glucopyranosylamine was prepared as follows. 2-Acetamido-3,4,6-tri-O-acetyl-2-deoxy-α-D-glucopyranosyl bromide (11.25 g, 30.8 mmol) was reacted with lithium azide (2.25 g, 46 mmol) in refluxing acetone (50 ml) under nitrogen atmosphere for 19 hr. The acetone was then removed under reduced pressure to give a semi-solid residue, which was taken up in a mixture of chloroform and water. The organic layer was separated, dried over anhydrous sodium sulfate, and filtered. The filtrate was evaporated to dryness to give the crude azo-saccharide as a brownish residue. This residue was dissolved in ethyl acetate and decolorized with activated carbon. Addition of ether to the ethyl acetate containing the product yielded the sugar azide as a white precipitate. TLC on silica (methanol:chloroform/1:9) showed a single homogenous spot. The resulting azide (4.0 g) was hydrogenated over platinum oxide (0.3 g) at room temperature and atmospheric pressure. After the completion of the reaction, the catalyst was filtered off and the solution was evaporated to dryness to give the aminosaccharide (3.4 g) as a white solid. TLC gave one spot (methanol:chloroform/1:9).

reactant | 2-Acetamido-3,4,6-tri-O-acetyl-2-deoxy-α-D-glucopyranosyl bromide | 30.8 mmol, 11.25 g | C(C)(=O)N[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)Br | C14H20BrNO8
reactant | lithium azide | 46 mmol, 2.25 g | [N-]=[N+]=[N-].[Li+]
reactant | acetone | 50 ml | CC(=O)C | C3H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 2-Acetamido-3,4,6-tri-O-acetyl-2-deoxy-β-D-glucopyranosylamine | C(C)(=O)N[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)N | C14H22N2O8
